US07163944B2
Isopropanol (450 mL) was added to 4-benzyloxy-2,6-bis(trifluoromethyl)nitrobenzene (9.00 g, 24.6 mmol) and the latter was dissolved in the former by heating at 70° C. A solution of sodium dithionite (14.1 g, 81.2 mmol) in water (150 mL) was added dropwise to the resulting solution. After stirring for 30 minutes at the same temperature, a solution of sodium dithionite (7.28 g, 41.8 mmol) in water (150 mL) was added further. The reaction mixture was stirred at the same temperature for 14 hours and then, the isopropanol was distilled off under reduced pressure. Ethyl acetate was added to the resulting suspension to separate it into layers. The aqueous layer was extracted with ethyl acetate twice. The organic layers were combined, washed successively with water and saturated saline, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent, whereby 8.26 g (yield: 100%) of 4-benzyloxy-2,6-bis(trifluoromethyl)aniline was obtained as colorless needle-like crystals.

reactant | Isopropanol | 450 mL | C(C)(C)O | C3H8O
reactant | 4-benzyloxy-2,6-bis(trifluoromethyl)nitrobenzene | 24.6 mmol, 9.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C15H9F6NO3
reactant | sodium dithionite | 81.2 mmol, 14.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 41.8 mmol, 7.28 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 4-benzyloxy-2,6-bis(trifluoromethyl)aniline | 8.26 g, yield: 100% | C(C1=CC=CC=C1)OC1=CC(=C(N)C(=C1)C(F)(F)F)C(F)(F)F | C15H11F6NO
